* Z:\home\spock\HiG\EE413A-mätteknik\lab\lab-01\sim\1_Ic-Uce-characteristics_nolabels2.asc
Q1 N001 N002 0 0 BC547C
R1 N002 V1 1MEG
R2 V2 N001 4.7k
V2 V2 0 {Uce}
I1 0 V1 3.72µ
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
;op
.step param Uce 0 10 1
.tran 1m
.backanno
.end
