* Z:\home\spock\HiG\EE413A-mätteknik\lab\lab-01\sim\6_amplifier-av.asc
Q1 N002 N003 N004 0 BC547C
R2 N002 N001 {Rc}
V2 N001 0 {Uce}
R3 N003 N001 820k
C2 Vout N002 1µ
R4 0 Vout 10MEG
R5 0 N004 390
C1 N003 Vin 1µ
V1 Vin 0 SINE(0 50m 1k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
;op
* .step param Uce 0 10 1
;tran 10m
.param Uce=20
* .step param Vin 0 10 1
* .step param Rb list 390k 470k 560k 680k 820k 1MEG
.param Vin=1
.param Rc=2.2k
* .step param Rc list 100 220 330 470 510 680 820 1k 2.2k 3.3k 4.7k 5.1k 6.8k 8.2k 10k 12k 15k 22k
* .param Rb=390k
.ac oct 100 20 20k
.backanno
.end
