* Z:\home\spock\HiG\EE413A-mätteknik\lab\lab-01\sim\5_amplifier-bias.asc
Q1 N002 N004 N005 0 BC547C
R2 N002 N001 {Rc}
V2 N001 0 {Uce}
R3 N004 N001 {Rb}
C2 N003 N002 1µ
R4 0 N003 10MEG
R5 0 N005 390
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.op
* .step param Uce 0 10 1
;tran 10m
.param Uce=20
* .step param Vin 0 10 1
* .step param Rb list 390k 470k 560k 680k 820k 1MEG
.param Vin=1
.param Rc=5k
.step param Rc list 1k 2.2k 3.3k 4.7k 5.1k 6.8k 8.2k 10k 12k 15k 22k
.param Rb=390k
.backanno
.end
